US05055458
A solution of diethyl 2,3-bis(t-butyldimethylsilyloxy)propoxymethylphosphonate (1 g, 2.13 mmol) in 80% aqueous acetic acid (20 ml) was stirred at 20° C. for 4 h. The solvent was evaporated in vacuo, co-evaporated with toluene and the residue chromatographed on silica, eluting with ethyl acetate-hexane 2:1, affording diethyl 2-t-butyldimethylsilyloxy-3-hydroxypropoxymethylphosphonate (340mg, 45%) as a clear liquid. νmax (film) 3400, 1460, 1390 and 1250 cm-1 ; δH (CDCl3), 0.05 (6H, s, CH3SiCH3), 0.83 (9H, s, (CH3)3CSi), 1.25 (6H, t, J6.9 Hz, 2×CH3CH2), 2.16 (1H, br.s, D2O exchangeable, OH), 3.50 (4H, m, CH2OH+CH2OCH2P), 3.72 (3H, m, CHOSi+CH2P), 4.05 (4H, m, 2×CH3CH2); m/z (FAB+ve Ion), 357 (MH+).

reactant | diethyl 2,3-bis(t-butyldimethylsilyloxy)propoxymethylphosphonate | 2.13 mmol, 1 g | [Si](C)(C)(C(C)(C)C)OC(COCP(OCC)(OCC)=O)CO[Si](C)(C)C(C)(C)C | C20H47O6PSi2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | diethyl 2-t-butyldimethylsilyloxy-3-hydroxypropoxymethylphosphonate | 340mg, 45% | [Si](C)(C)(C(C)(C)C)OC(COCP(OCC)(OCC)=O)CO | C14H33O6PSi
